US05391571
A mixture of 4-bromoanisole (35 ml, 0.28 mol), 4-chlorophenol (43 g, 0.33 mol), anhydrous K2CO3 (13 g, 0.09 mol) and copper bronze (0.38 g, 5.98 mmol) were stirred under a nitrogen atmosphere at 210° C. for 2 hours. After cooling to room temperature, the mixture was dissolved in methylene chloride, extracted two times with 1 N NaOH, dried (MgSO4) and the solvent removed under reduced pressure to give a brown liquid. Excess 4-bromoanisole was removed by distillation under reduced pressure (60°-73° C., 1 mm) and the residual crystalline solid was purified by HPLC (hexane-methylene chloride). 4-Methoxy-4'-chlorodiphenyl ether was isolated as a white crystalline solid (28.84 g, 44%), mp 49°-51° C.

reactant | 4-bromoanisole | 0.28 mol, 35 ml | BrC1=CC=C(C=C1)OC | C7H7BrO
reactant | 4-chlorophenol | 0.33 mol, 43 g | ClC1=CC=C(C=C1)O | C6H5ClO
reactant | K2CO3 | 0.09 mol, 13 g | C(=O)([O-])[O-].[K+].[K+]
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | copper bronze | 5.98 mmol, 0.38 g | [Cu] | Cu
product | 4-Methoxy-4'-chlorodiphenyl ether | COC1=CC=C(C=C1)OC2=CC=C(C=C2)Cl | C13H11ClO2
